### PR TITLE
feat: port all missing theorems in `BI/DerivedLaws.lean` and `BI/DerivedLawsLater.lean`

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

Port all missing theorems and instances in [`BI/DerivedLaws.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/BI/DerivedLaws.lean) and [`BI/DerivedLawsLater.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/BI/DerivedLawsLater.lean).

<details>

<summary><b>Checklist of theorems and instances being ported</b></summary>

- [x] `bi.and_parallel`
- [x] `bi.bi_or_monoid`
- [x] `bi.decide_bi_True`
- [x] `bi.decide_emp`
- [x] `bi.entails_anti_sym` (already exists, added missing `rocq_alias` annotation)
- [x] `bi.entails_impl`
- [x] `bi.equiv_entails_2` (ignored, the `BiEntails` constructor) can be used directly)
- [x] `bi.equiv_iff`
- [x] `bi.exist_wand_forall`
- [x] `bi.from_option_persistent`
- [x] `bi.iff_equiv`
- [x] `bi.iff_sym`
- [x] `bi.iff_trans`
- [x] `bi.impl_alt`
- [x] `bi.impl_entails`
- [x] `bi.impl_wand`
- [x] `bi.impl_wand_2`
- [x] `bi.impl_wand_intuitionistically`
- [x] `bi.intuitionistically_alt_fixpoint`
- [x] `bi.intuitionistically_intro`
- [x] `bi.limit_preserving_emp_valid`
- [x] `bi.persistent_absorbingly_affinely`
- [x] `bi.persistent_and_sep_assoc`
- [x] `bi.persistent_impl_wand_affinely`
- [x] `bi.persistent_sep_dup`
- [x] `bi.persistent_sep_dup_1`
- [x] `bi.pure_flip_mono` (ignored, specific to the `Proper` type class in Rocq)
- [x] `bi.pure_impl_forall`
- [x] `bi.pure_wand_forall`
- [x] `bi.wand_iff_sym`
- [x] `bi.wand_iff_trans`
- [x] `bi.laterN_iter` (ignored, `laterN` in Lean is itself defined using `Nat.repeat`, #324)
- [x] `bi.löb_alt_wand`
- [x] `bi.not_not_later_False`

</details>

The theorem `bi.wandM_sound` is ported in #470.

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/BI/DerivedLaws.lean [hunk 1]
```diff
@@ -604,6 +609,34 @@ theorem wandIff_congr_right [BI PROP] {P Q Q' : PROP} (h : Q ⊣⊢ Q') : (P ∗
...
+  · exact forall_intro (wand_mono_left <| exists_intro ·)
+  · exact wand_intro <| sep_exists_left.mp.trans <| exists_elim fun x =>
+      (sep_mono_left (forall_elim x)).trans wand_elim_left
+
+@[rocq_alias bi.and_parallel]
+theorem and_parallel [BI PROP] {P1 P2 Q1 Q2 : PROP} :
+    ⊢ (P1 ∧ P2) -∗ ((P1 -∗ Q1) ∧ (P2 -∗ Q2)) -∗ Q1 ∧ Q2 := by
+  apply wand_intro
+  apply wand_intro
+  apply and_intro <;> apply wand_elim <;> apply wand_intro
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]: Remove the `<;>`. Duplicate the code in each branch instead, or convert this line into a `refine` statement with the code for both branches.

File: Iris/Iris/BI/DerivedLaws.lean [hunk 2]
```diff
@@ -604,6 +609,34 @@ theorem wandIff_congr_right [BI PROP] {P Q Q' : PROP} (h : Q ⊣⊢ Q') : (P ∗
...
+@[rocq_alias bi.wand_iff_sym]
+theorem wandIff_sym [BI PROP] {P Q : PROP} : (P ∗-∗ Q) ⊣⊢ (Q ∗-∗ P) :=
+  ⟨and_symm, and_symm⟩
+
+@[rocq_alias bi.wand_iff_trans]
+theorem wandIff_trans [BI PROP] {P Q R : PROP} :
+    (P ∗-∗ Q) ∗ (Q ∗-∗ R) ⊢ (P ∗-∗ R) := by
+  apply and_intro
+  · exact (sep_mono and_elim_l and_elim_l).trans wand_trans
+  · exact (sep_mono and_elim_r and_elim_r).trans <| sep_comm.mp.trans wand_trans
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]: If you have two or more top-level `.trans` statements in a line, it's better to make it a `calc` block, because otherwise it is quite hard to read. I'll annotate this every time it happens in your code.

File: Iris/Iris/BI/DerivedLaws.lean [hunk 3]
```diff
@@ -604,6 +609,34 @@ theorem wandIff_congr_right [BI PROP] {P Q Q' : PROP} (h : Q ⊣⊢ Q') : (P ∗
...
+
+@[rocq_alias bi.exist_wand_forall]
+theorem exists_wand_forall [BI PROP] {P : PROP} {Ψ : α → PROP} :
+    ((∃ x, Ψ x) -∗ P) ⊣⊢ (∀ x, Ψ x -∗ P) := by
+  constructor
+  · exact forall_intro (wand_mono_left <| exists_intro ·)
+  · exact wand_intro <| sep_exists_left.mp.trans <| exists_elim fun x =>
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]: Prefer multiple `refine`s here to break the line.

File: Iris/Iris/BI/DerivedLaws.lean [hunk 4]
```diff
@@ -613,6 +646,40 @@ instance iff_ne [BI PROP] : OFE.NonExpansive₂ (BIBase.iff (PROP := PROP)) :=
...
+theorem equiv_iff_thm [BI PROP] {P Q : PROP} (h : P ⊣⊢ Q) : ⊢ iprop(P ↔ Q) := by
+  apply and_intro
+  · exact imp_intro <| and_elim_r.trans h.mp
+  · exact imp_intro <| and_elim_r.trans h.mpr
+
+@[rocq_alias bi.iff_equiv]
+theorem iff_equiv [BI PROP] {P Q : PROP} [Affine P] [Affine Q] (h : ⊢ iprop(P ↔ Q)) :
+    P ⊣⊢ Q := by
+  constructor
+  · exact (and_intro .rfl ((Affine.affine).trans (h.trans and_elim_l))).trans imp_elim_right
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]: Multi-trans

File: Iris/Iris/BI/DerivedLaws.lean [hunk 5]
```diff
@@ -613,6 +646,40 @@ instance iff_ne [BI PROP] : OFE.NonExpansive₂ (BIBase.iff (PROP := PROP)) :=
...
+  · exact (and_intro .rfl ((Affine.affine).trans (h.trans and_elim_r))).trans imp_elim_right
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]: Multi-trans

File: Iris/Iris/BI/DerivedLaws.lean [hunk 6]
```diff
@@ -721,6 +799,26 @@ theorem pure_alt {PROP : Type _} [BI PROP] (φ : Prop) :
     (⌜φ⌝ : PROP) ⊣⊢ ∃ _ : φ, True :=
   (pure_congr ⟨fun h => ⟨h, trivial⟩, fun ⟨h, _⟩ => h⟩).trans pure_exists.symm
 
+@[rocq_alias bi.pure_wand_forall]
+theorem pure_wand_forall [BI PROP] {φ : Prop} {P : PROP} [Absorbing P] :
+    (⌜φ⌝ -∗ P) ⊣⊢ (∀ _ : φ, P) := by
+  constructor
+  · apply forall_intro
+    intro hφ
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]:
```suggestion
  · refine forall_intro fun hφ => ?_
```

File: Iris/Iris/BI/DerivedLaws.lean [hunk 7]
```diff
@@ -721,6 +799,26 @@ theorem pure_alt {PROP : Type _} [BI PROP] (φ : Prop) :
...
+    calc
+      _ ⊢ (⌜φ⌝ -∗ P) ∗ emp := sep_emp.mpr
+      _ ⊢ (⌜φ⌝ -∗ P) ∗ ⌜φ⌝ := sep_mono_right <| pure_intro hφ
+      _ ⊢ P                := wand_elim_left
+  · apply wand_intro_left
+    apply wand_elim
+    apply pure_elim'
+    intro hφ
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]:
```suggestion
    refine pure_elim' fun hφ => ?_
```

File: Iris/Iris/BI/DerivedLaws.lean [hunk 8]
```diff
@@ -1503,10 +1626,27 @@ theorem intuitionistically_and_sep [BI PROP] {P Q : PROP} : □ (P ∧ Q) ⊣⊢
...
   ⟨imp_intro <| persistently_and_intuitionistically_sep_right.1.trans wand_elim_left,
    wand_intro <|persistently_and_intuitionistically_sep_right.2.trans imp_elim_left⟩
 
+@[rocq_alias bi.intuitionistically_alt_fixpoint]
+theorem self_sep_intuitionistically [BI PROP] {P : PROP} :
+    □ P ⊣⊢ emp ∧ (P ∗ □ P) := by
+  constructor
+  · apply and_intro
+    · exact intuitionistically_elim_emp
+    · apply intuitionistically_sep_idem.mpr.trans <| sep_mono_left intuitionistically_elim
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]:
```suggestion
    · exact intuitionistically_sep_idem.mpr.trans <| sep_mono_left intuitionistically_elim
```

Or whatever makes this work

File: Iris/Iris/BI/DerivedLaws.lean [hunk 9]
```diff
@@ -1503,10 +1626,27 @@ theorem intuitionistically_and_sep [BI PROP] {P Q : PROP} : □ (P ∧ Q) ⊣⊢
...
+  · apply and_mono
+    · rfl
+    · exact (sep_mono_right (and_elim_r)).trans self_sep_persistently.mp
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]:
```suggestion
  · refine and_mono ⟨rfl, ?_⟩
    exact (sep_mono_right (and_elim_r)).trans self_sep_persistently.mp
```
Removes one unnecessary level of indentation

File: Iris/Iris/BI/DerivedLaws.lean [hunk 10]
```diff
@@ -2190,6 +2373,12 @@ theorem LimitPreserving.entails [BI PROP] [COFE A] (Φ Ψ : A → PROP) [Φne :
     refine LimitPreserving.equiv f g _ ?_
     exact (equiv_iff.mpr <| h' ·)
 
+@[rocq_alias bi.limit_preserving_emp_valid]
+theorem limitPreserving_emp_valid [BI PROP] [COFE A] (Φ : A → PROP)
+    [OFE.NonExpansive Φ] : LimitPreserving (fun x => ⊢ Φ x) := by
+  refine fun c h => ?_
+  exact LimitPreserving.entails (fun _ => iprop(emp)) Φ c h
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLaws.lean]:
```suggestion
    [OFE.NonExpansive Φ] : LimitPreserving (fun x => ⊢ Φ x) :=
  LimitPreserving.entails (fun _ => iprop(emp)) Φ
```

File: Iris/Iris/BI/DerivedLawsLater.lean [hunk 11]
```diff
@@ -259,6 +264,38 @@ instance later_contractive_bi_loeb [BILaterContractive PROP] : BILoeb PROP where
     refine equiv_iff.mp ?_ |>.mp
     exact fixpoint_unfold Flöb
 
+@[rocq_alias bi.not_not_later_False]
+theorem not_not_later_False [BILoeb PROP] : ⊢@{PROP} ¬ ¬ ▷ False := entails_imp loeb
+
+@[rocq_alias bi.löb_alt_wand]
+theorem loeb_alt_wand [BIAffine PROP] :
+    BILoeb PROP ↔ ∀ P : PROP, □ (▷ P -∗ P) ⊢ P := by
+  constructor <;> intro h
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLawsLater.lean]:
```suggestion
  refine ⟨fun h => ?_, fun h => ?_⟩
```
Then, you can probably collapse the first branch into the refine, as well as the `constructor` and `intro _ hP` lines too.

File: Iris/Iris/BI/DerivedLawsLater.lean [hunk 12]
```diff
@@ -259,6 +264,38 @@ instance later_contractive_bi_loeb [BILaterContractive PROP] : BILoeb PROP where
...
+  · apply loeb_wand
+  · constructor
+    intro _ hP
+    apply loeb_weak_of_strong _ hP
+    intro P
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/DerivedLawsLater.lean]: Any time you see `apply` followed by `intro` you should just inline the intro into the above line wth an `apply`. This declutters the proof.

**Review by markusdemedeiros — CHANGES_REQUESTED** [review]

**Comment by markusdemedeiros** [comment]
I did a pass just on GitHub. If you are too time-constrained right now with proofmode changes, I can also make the fixes, but otherwise I think it is good to get some practice making these basic refactoring changes to match our idioms.

File: Iris/Iris/BI/DerivedLaws.lean (hunk 1 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [34bdc0b](https://github.com/leanprover-community/iris-lean/pull/539/commits/34bdc0b94358bf213d02dd6bb8d806fa9c34e940).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [3b01680](https://github.com/leanprover-community/iris-lean/pull/539/commits/3b016802f81ce644a037daf43c9efd3cc3dd3dc7).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 3 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [ac9e436](https://github.com/leanprover-community/iris-lean/pull/539/commits/ac9e4365101790cec4c70d72c967147323138566).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 5 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [051ed9e](https://github.com/leanprover-community/iris-lean/pull/539/commits/051ed9e122e73ec18f60f38d9ad21e4ff8abc8f4).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 7 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [7666dc9](https://github.com/leanprover-community/iris-lean/pull/539/commits/7666dc9ed907f9b6725018873eed899b0d3a148f).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 8 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [aea29fa](https://github.com/leanprover-community/iris-lean/pull/539/commits/aea29fac60c4ba0d84ab0f79c13f4393ffc082e7).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 9 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [aea29fa](https://github.com/leanprover-community/iris-lean/pull/539/commits/aea29fac60c4ba0d84ab0f79c13f4393ffc082e7).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 10 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [fcbf9a8](https://github.com/leanprover-community/iris-lean/pull/539/commits/fcbf9a8be10b9a0f59b10530f4fcfa0d524f28fa).

File: Iris/Iris/BI/DerivedLawsLater.lean (hunk 11 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLawsLater.lean]: Resolved in commit [d8a0f65](https://github.com/leanprover-community/iris-lean/pull/539/commits/d8a0f65556961b345ac6b04bf14919f6972c99c7).

File: Iris/Iris/BI/DerivedLawsLater.lean (hunk 12 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLawsLater.lean]: Resolved in commit [d8a0f65](https://github.com/leanprover-community/iris-lean/pull/539/commits/d8a0f65556961b345ac6b04bf14919f6972c99c7).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 4 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [051ed9e](https://github.com/leanprover-community/iris-lean/pull/539/commits/051ed9e122e73ec18f60f38d9ad21e4ff8abc8f4).

The `trans`  occurrences in the lemma above (`and_parallel`) are nested, not linear. I have made it more readable by splitting it into multiple lines using `refine`, but no `calc`-style proofs there.

Commit: [6598fad](https://github.com/leanprover-community/iris-lean/pull/539/commits/6598fadaceb05fed03c147b4be4e1cf9f0bca937).

File: Iris/Iris/BI/DerivedLaws.lean (hunk 6 above)
Comment (alvinylt) [reply Iris/Iris/BI/DerivedLaws.lean]: Resolved in commit [7666dc9](https://github.com/leanprover-community/iris-lean/pull/539/commits/7666dc9ed907f9b6725018873eed899b0d3a148f).

**Comment by alvinylt** [comment]
Please find the fixes addressing the review comments in the latest commits.

There are also many existing proofs that could be better presented in `calc` style. Let me know if you'd like me to refactor those as well.

Once the remaining PRs for the IPM tactics are merged, I plan to go through the entire `ProofMode` directory for checks. If we can get the linter working by then, the `ProofMode` directory can be the first part of the codebase where we enforce the style rules strictly.

**Review by markusdemedeiros — APPROVED** [review]

**Comment by markusdemedeiros** [comment]
Great work, thank you! Yes, I agree that there are quite a few places in the repo which should get a second look--usually I think this happens when reviewers are overwhelmed, at least that's where some of my lax reviews have came from in the past. Either way, I think that documenting style problems eagerly is a good way to make future reviews (and reviewers :p) more efficient.
